US05710198
A mixture of 15.5 g (50.0 mmol) of 1,3-dihydroxy-xanthenium bisulfam [R. K. M. Pillai et al, J. Org. Chem. 51, 717 (1986)] and 4.90 g (75.0 mmol) of potassium cyanide in 150 ml of dimethylformamide is kept at 130° C. for 2 hours. The solvent is then concentrated on a vacuum rotary evaporator and the residue is taken up in ethyl acetate. The ethyl acetate phase is washed with water, dried over sodium sulfate and concentrated on a vacuum rotary evaporator. Chromatography of the residue over silica gel using the mobile phase system hexane/ethyl acetate=3:1 and crystallization of the pure fractions from ethyl acetate gives 10.0 g (83%) of 9-cyano-1,3-dihydroxy-xanthene, melting point 211°-215° C. (compound (107), Table 1).

reactant | 1,3-dihydroxy-xanthenium | 50.0 mmol, 15.5 g | OC1=CC(=CC2=[O+]C3=CC=CC=C3C=C12)O
reactant | potassium cyanide | 75.0 mmol, 4.90 g | [C-]#N.[K+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 9-cyano-1,3-dihydroxy-xanthene | 10.0 g, 83% | C(#N)C1C2=CC=CC=C2OC=2C=C(C=C(C12)O)O | C14H9NO3
